US07687664B2
Methyl 3-(2-{[(t-butoxycarbonyl)amino]methyl}-4-pyridyl)benzoate
379mg of 3-(2-cyano-4-pyridyl)benzoate, 350 mg of t-butyl dicarbonate and 300 mg of 10% palladium-carbon were added to and dissolved in 16 ml of ethanol and 2 ml of ethyl acetate, and the mixture was stirred at room temperature for 3 hours in a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was evaporated. The residue was purified by silica gel column, to give 243 mg of the title compound in the 1:1 hexane-ethyl acetate fraction.

reactant | 3-(2-cyano-4-pyridyl)benzoate | 379mg | C(#N)C1=NC=CC(=C1)C=1C=C(C(=O)[O-])C=CC1
reactant | t-butyl dicarbonate | 350 mg | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 16 ml | C(C)O | C2H6O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 300 mg | [C].[Pd]
product | Methyl 3-(2-{[(t-butoxycarbonyl)amino]methyl}-4-pyridyl)benzoate | 243 mg | C(C)(C)(C)OC(=O)NCC1=NC=CC(=C1)C=1C=C(C(=O)OC)C=CC1 | C19H22N2O4
